US04546186
1,4,5,6,7,8-Hexahydro-2-trifluoromethyl-4-(1-methyl-1H-imidazol-2-yl)-5-oxo-3-quinolinecarboxylic acid ethyl ester
To a stirred mixture of 2.3 g (0.02 mole) of 1,3-cyclohexandione, ethyl-4,4,4-trifluoroacetoacetate (3.3 g, 0.02 mole) and ammonium acetate (4.9 g, 0.4 mole) in 50 mL of absolute ethanol, (2.0 g, 0.02 mole) of N-methylimidazole-2-carboxaldehyde was added. The reaction mixture was refluxed for 24 hours and allowed to cool to room temperature. The solvent was evaporated in vacuo, and the residue was separated by high performance liquid chromatography (30% methanol-ethylacetate mixture as the eluent) to afford 0.5 g (7% yield ) of the title compound, m.p. 197°-198° C.; MS, m/e 369 (M+); NMR (CDCl3) δ1.0 (t, 3 H, CCH3), 1.5-2.4 (m, 6 H, cyclohexenone), 3.7 (s, 3 H, NCH3), 4-4.1 (q, 2 H, CH2C), 5.0 (s, 1 H, dihydropyridine-H), 6.5 (d, 1 H, imidazole-H), 6.8 (d, 1 H, imidazole-H) and 9.6 (s, 1 H, NH).

reactant | 1,3-cyclohexandione | 0.02 mole, 2.3 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ethyl-4,4,4-trifluoroacetoacetate | 0.02 mole, 3.3 g | C(C)OC(CC(=O)C(F)(F)F)=O | C6H7F3O3
reactant | ammonium acetate | 0.4 mole, 4.9 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 0.02 mole, 50 mL, 2.0 g | C(C)O | C2H6O
reactant | N-methylimidazole-2-carboxaldehyde | CN1C(=NC=C1)C=O | C5H6N2O
product | 1,4,5,6,7,8-Hexahydro-2-trifluoromethyl-4-(1-methyl-1H-imidazol-2-yl)-5-oxo-3-quinolinecarboxylic acid ethyl ester | 0.5 g, 7% yield | C(C)OC(=O)C1=C(NC=2CCCC(C2C1C=1N(C=CN1)C)=O)C(F)(F)F | C17H18F3N3O3
